US04109088
After mixing 3.03 g, of 4-isopropyl-5-oxo-2-(1-oxo-5-indanyloxymethyl)morpholine, 100 ml. of tetrahydrofuran, and 2.0 g. of lithium aluminum hydride under ice-cooling, the mixture was stirred for 18 hours at room temperature. Then, 2.0 ml. of water, 2.0 ml. of 15% sodium hydroxide aqueous solution, and then 6 ml. of water were added to the mixture followed by stirring for 30 minutes. The mixture was then filtered and the filtrate was concentrated. The residue formed was adsorbed on a silica gel column prepared from 100 ml. of silica gel in chloroform and then eluted with ethyl acetate as the eluent. After removing the first 20 ml. of the ethyl acetate eluate emerging from the column, 300 ml. of the subsequent ethyl acetate eluate was collected and dried to provide 2.0 g. (yield 68.7%) of oily 2-(1-hydroxy-5-indanyloxymethyl)-4-isopropylmorpholine.

reactant | 4-isopropyl-5-oxo-2-(1-oxo-5-indanyloxymethyl)morpholine | C(C)(C)N1CC(OCC1=O)C(=O)OC=1C=C2CCCC2=CC1 | C17H21NO4
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 2-(1-hydroxy-5-indanyloxymethyl)-4-isopropylmorpholine | yield 68.7% | OC(C1CN(CCO1)C(C)C)OC=1C=C2CCCC2=CC1 | C17H25NO3
